US07354932B2
3-(1-Trityl-1H-imidazol-2-yl)-propionaldehyde
To a solution of 3-(1-trityl-1H-imidazol-2-yl)-propan-1-ol (201 mg, 0.545 mmol) in CH2Cl2 (6 mL) was added Dess-Martin periodinane (278 mg, 0.655 mmol) at room temperature. After stirring at room temperature for 1 h, the mixture was diluted with EtOAc (30 mL), washed with 1 N NaOH(aq) (2×10 mL) and brine (10 mL), then dried (MgSO4) and concentrated in vacuo to give a tan foam (178 mg, 89%). 1H NMR (CDCl3) δ 2.19 (m, 2H), 2.37 (m, 2H), 6.75 (d, 1H, J=1.5 Hz), 6.93 (d, 1H, J=1.5 Hz), 7.13 (m, 6H), 7.34 (m, 9H), 9.54 (s, 1H).

reactant | 3-(1-trityl-1H-imidazol-2-yl)-propan-1-ol | 0.545 mmol, 201 mg | C(C1=CC=CC=C1)(C1=CC=CC=C1)(C1=CC=CC=C1)N1C(=NC=C1)CCCO | C25H24N2O
reactant | Dess-Martin periodinane | 0.655 mmol, 278 mg | CC(=O)OI1(C=2C=CC=CC2C(=O)O1)(OC(=O)C)OC(=O)C | C13H13IO8
solvent | CH2Cl2 | 6 mL | C(Cl)Cl | CH2Cl2
solvent | EtOAc | 30 mL | CCOC(=O)C | C4H8O2
product | 3-(1-Trityl-1H-imidazol-2-yl)-propionaldehyde | 178 mg, 89% | C(C1=CC=CC=C1)(C1=CC=CC=C1)(C1=CC=CC=C1)N1C(=NC=C1)CCC=O | C25H22N2O
